US07951838B2
To a solution of (2S,3S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-hydroxybutyl acetate (1350 mg, 3414 μmol) in 5 mL of DMF was added 2-methoxyprop-1-ene (1961 μl, 20483 μmol) and ((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid (397 mg, 1707 μmol). After stirring for 20 hours the reaction was poured into ice-cold aqueous saturated sodium bicarbonate (150 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, brine, and dried over sodium sulfate. The orange oil was taken up in 30 mL of methanol, cooled to 0° C. and treated with potassium carbonate (1415 mg, 10242 μmol). The reaction was allowed to warm to rt over the course of 1 hour and stirred for a total of 2 hours. The reaction was diluted with ethyl acetate (25 mL) and poured in saturated ammonium chloride 50 mL. The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, brine dried over Na2SO4, filtered, concentrated under reduced pressure and purification of the resulting crude material by silica gel chromatography provided (4S,5S)-tert-butyl 4-((2,2-dimethylbenzo[d][1,3]dioxol-5-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate as an orange foam.

reactant | (2S,3S)-3-(tert-butoxycarbonyl)-4-(2,2-dimethylbenzo[d][1,3]dioxol-5-yl)-2-hydroxybutyl acetate | 3414 μmol, 1350 mg | C(C)(=O)OC[C@H]([C@H](CC1=CC2=C(OC(O2)(C)C)C=C1)C(=O)OC(C)(C)C)O | C20H28O7
reactant | 2-methoxyprop-1-ene | 20483 μmol, 1961 μl | COC(=C)C | C4H8O
reactant | ((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonic acid | 1707 μmol, 397 mg | CC1([C@@]2(C(C[C@H]1CC2)=O)CS(=O)(=O)O)C | C10H16O4S
reactant | potassium carbonate | 10242 μmol, 1415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | 50 mL | [Cl-].[NH4+]
product | (4S,5S)-tert-butyl 4-((2,2-dimethylbenzo[d][1,3]dioxol-5-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate | CC1(OC2=C(O1)C=CC(=C2)C[C@@H]2N(C(O[C@@H]2CO)(C)C)C(=O)OC(C)(C)C)C | C21H31NO6
